************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G4_XNOR2_N1
* View Name:     schematic
* Netlisted on:  Feb 23 16:22:05 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/rules_N1/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G4_XNOR2_N1
* View Name:    schematic
************************************************************************

.SUBCKT G4_XNOR2_N1 A B Vdd Vss Z
*.PININFO A:I B:I Z:O Vdd:B Vss:B
XI7 Z A B A Vdd / TIGFET_PCELL_SP15CP15_N1
XI8 Z net1 net2 net1 Vdd / TIGFET_PCELL_SP15CP15_N1
XI5 Z net2 A net2 Vss / TIGFET_PCELL_SP15CP15_N1
XI11 Z B net1 B Vss / TIGFET_PCELL_SP15CP15_N1
XI3 A Vss net1 Vss Vdd / TIGFET_PCELL_SP15CP15_N1
XI9 A Vdd net1 Vdd Vss / TIGFET_PCELL_SP15CP15_N1
XI1 B Vss net2 Vss Vdd / TIGFET_PCELL_SP15CP15_N1
XI10 B Vdd net2 Vdd Vss / TIGFET_PCELL_SP15CP15_N1
.ENDS

